US07884109B2
Synthesis of 9-((R)-Chroman-4-yl)-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9H-purine
The title compound as a TFA salt was synthesized from (R)-tert-butyl 2-(4-(chroman-4-ylamino)-5-nitropyrimidin-2-ylamino)-4-fluorophenylcarbamate via the procedure described in Example 15. 1H NMR (300 MHz, CDCl3): δ 9.15 (s, 2H), 8.27 (dd, 1H), 7.89 (s, 1H), 7.78 (dd, 1H), 7.32 (td, 1H), 7.32 (td, 1H), 7.13 (td, 1H), 7.1-6.9 (m, 3H), 6.00 (t, 1H), 4.4-4.3 (m, 2H), 4.2-4.1 (m, 2H), 2.7-2.5 (m, 2H). 19F NMR: δ −116.4.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-tert-butyl 2-(4-(chroman-4-ylamino)-5-nitropyrimidin-2-ylamino)-4-fluorophenylcarbamate | O1CC[C@H](C2=CC=CC=C12)NC1=NC(=NC=C1[N+](=O)[O-])NC1=C(C=CC(=C1)F)NC(OC(C)(C)C)=O | C24H25FN6O5
product | 9-((R)-Chroman-4-yl)-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9H-purine | O1CC[C@H](C2=CC=CC=C12)N1C2=NC(=NC=C2N=C1)N1C=NC2=C1C=C(C=C2)F | C21H15FN6O
